US04874768
Under argon, 109 mg of 1,1-diethyl-3-(2-ethynyl-6-methyl-8α-ergolinyl)urea in 5 ml of absolute tetrahydrofuran is added dropwise at -30° C. to a solution of lithium diisopropylamide, prepared from 0.15 ml of diisopropylamine and 1.8 ml of 0.6-molar n-butyllithium solution (hexane) in 3 ml of absolute tetrahydrofuran at 0° C. within 15 minutes. After 30 minutes of agitation at -30° C., 0.07 ml of propyl iodide is added thereto. The mixture is stirred for one hour at -20° C. and overnight at room temperature. After evaporation, the mixture, after adding sodium bicarbonate solution and a small amount of ethanol, is extracted by shaking with ethyl acetate. The organic phase is concentrated and chromatographed over silica gel with toluene:glacial acetic acid:water=10:10:1, thus obtaining 30 mg of 1,1-diethyl-3-(2-ethynyl-1-propyl-6-methyl-8α-ergolinyl)urea as an oil.

reactant | 1,1-diethyl-3-(2-ethynyl-6-methyl-8α-ergolinyl)urea | 109 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C#C)C)CC | C22H28N4O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 0.15 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.6-molar, 1.8 ml | C(CCC)[Li]
reactant | propyl iodide | 0.07 ml | C(CC)I | C3H7I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1,1-diethyl-3-(2-ethynyl-1-propyl-6-methyl-8α-ergolinyl)urea | 30 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)CCC)C#C)C)CC | C25H34N4O
